US07205326B2
Preparation of 1-But-3-ynyl-1H-[1,2,3]triazole
A suspension of NaOH (37.86 g, 946.5 mmol), sodium iodide (94.65 g, 631.5 mmol) and 1H-[1,2,3]triazole (61.03 g, 883.6 mmol) in 2-methyl-2-butanol (750 mL) was refluxed for 1 h under an inert atmosphere. After cooling to room temperature the methane sulfonate (94.18 g, 631.2 mmol) was added within 5 minutes. The resulting suspension was then heated to reflux for 3 h, cooled to room temperature and concentrated in vacuo at 45° C. Water (500 mL) and dichloro methane (1 L) were added and the organic phase was separated, dried over sodium sulfate and the volatiles removed at 30° C. The residue was distilled at 1 mmHg. A forerun was collected at 20–70° C. The main fraction distilled at 123–129° C. as a colorless, turbid liquid. After filtration over Celite 1-but-3-ynyl-1H-[1,2,3]triazole was obtained as a colorless liquid (29.77 g, 38.9%).

reactant | NaOH | 946.5 mmol, 37.86 g | [OH-].[Na+]
reactant | sodium iodide | 631.5 mmol, 94.65 g | [I-].[Na+]
reactant | 1H-[1,2,3]triazole | 883.6 mmol, 61.03 g | N1N=NC=C1 | C2H3N3
reactant | methane sulfonate | 631.2 mmol, 94.18 g | CS(=O)(=O)[O-]
reactant | 2-methyl-2-butanol | 750 mL | CC(C)(CC)O | C5H12O
product | 1-But-3-ynyl-1H-[1,2,3]triazole | 29.77 g, 38.9% | C(CC#C)N1N=NC=C1 | C6H7N3
